US08278482B2
Benzyl 2-methyl-4-(piperidin-1-yl)butan-2-ylcarbamate
To a solution of crude 2-methyl-4-(piperidin-1-yl)butan-2-amine in THF (100 mL) was added CbzOSu (8.10 g, 1.2 equiv, 33.2 mmol) in one portion. The reaction mixture was left to stir at room temperature for 17 h. The solvent was removed under reduced pressure and the residue was taken up in a mixture of ethyl acetate (300 mL) and water (100 mL). The layers were separated and the organic layer washed with saturated sodium bicarbonate (2×100 mL), water (100 mL) and brine (100 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a pale yellow oil. The crude oil was purified on an ISCO purification system with gradient elution from 5% ethyl acetate in hexanes to 100% ethyl acetate. The desired fractions were collected and concentrated to give a pale yellow oil (4.91 g, 49.6%). 1H NMR (CDCl3, 400 MHz): δ 1.36 (s, 6H), 1.37-1.45 (m, 2H), 1.51-1.53 (m, 6H), 2.30-2.45 (m, 6H), 2.38 (s, 2H), 5.05 (s, 2H), 7.27-7.36 (m, 5H). LRMS (ESI+) for C18H28N2O2 (304.2); Found: 305 (MH+).

reactant | 2-methyl-4-(piperidin-1-yl)butan-2-amine | CC(C)(CCN1CCCCC1)N | C10H22N2
reactant | CbzOSu | 33.2 mmol, 8.10 g, 1.2 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Benzyl 2-methyl-4-(piperidin-1-yl)butan-2-ylcarbamate | 4.91 g, 49.6% | CC(C)(CCN1CCCCC1)NC(OCC1=CC=CC=C1)=O | C18H28N2O2
